US04044021
1-Phenyl-2-methylimino-3-methyl-4-oxoimidazolidine
3.78 g. of 1-phenyl-2-imino-3-methyl-4-oxoimidazolidine, 40 ml. dry methylene chloride and 6 ml. of methylfluorosulfonate are mixed and stirred in a flash equipped with a drying tube at room temperature. After 20 hours the solid was filtered and the filtrate was stripped to dryness. The residue was treated with 30 ml. of water and extracted once with ether. The aqueous layer was separated and added slowly to 12 ml. of 5N NaOH with cooling and stirring. The white precipitate was filtered, washed with water and dried. Thin-layer chromatography showed a single spot (Rf 0.6, 5% EtOH. CH2Cl2). The yield was 2.75 g. (68%), m.p. 116°-118° C.

reactant | 1-phenyl-2-imino-3-methyl-4-oxoimidazolidine | C1(=CC=CC=C1)N1C(N(C(C1)=O)C)=N | C10H11N3O
reactant | methylfluorosulfonate | COS(=O)(=O)F | CH3FO3S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-Phenyl-2-methylimino-3-methyl-4-oxoimidazolidine | C1(=CC=CC=C1)N1C(N(C(C1)=O)C)=NC | C11H13N3O
